US06593350B2
[8-Ethyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonate
0.70 g (1.5 mmole) of toluene-4-sulfonic acid (2R)-7-nitro-8-(2-nitro-but-1-enyl)-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester was dissolved in 100 mL of ethyl acetate and 0.10 g of platinum oxide added. The mixure was treated with 45 psi of hydrogen on a Parr hydrogenation apparatus for 5 hours. The mixture was then filtered through celite and concentrated in vacuum. The residue was column chromatographed on silica gel with 1:1 ethyl acetate/hexane to give 0.52 g of the (R)-enantiomer of the title compound as a yellow oil. 1H-NMR (CDCl3): doublet 7.8 δ (2 H); doublet 7.3 δ (2 H); doublet 6.76 δ (1 H); doublet 6.64 δ (1 H); singlet 6.16 δ (1 H); multiplet 4.5 δ (1 H); multiplet 4.3 δ (3 H); quartet 4.1 δ (1 H); quartet 2 H); singlet 2.5 δ (3 H); triplet 1.3 δ (3 H).

reactant | toluene-4-sulfonic acid (2R)-7-nitro-8-(2-nitro-but-1-enyl)-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl ester | 1.5 mmole, 0.70 g | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C)C1C=C(CC)[N+](=O)[O-] | C20H20N2O9S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.10 g | [Pt]=O
product | [8-Ethyl-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3C=C(NC3=CC2)CC)O1 | C20H21NO5S
